US04005074
Preparation A. 7-Phthalimido-3-methyl-3-cephem-4-carboxylic acid.
To a suspension of 181 g. of 7-amino-3-methyl-3-cephem-4-carboxylic acid (7-ADCA) in 1700 ml. of water, 142 g. of NaHCO3 were slowly added followed by a solution of 186 g. of N-carbethoxyphthalimide in 1 liter of acetone added dropwise over a 30 minute period. After stirring for 3 hrs. the solution was cooled in an ice-water bath and acidified to pH 2.1 by addition of 600 ml. of 42.5% of H3PO4. The resulting precipitate was filtered, washed with water, and vacuum dried to give 227 g. of a mixture of the starting material and the desired phthalimido compound. The mixture was separated by extraction with warm acetone and ethyl acetate, recovering 105 g. of 7-ADCA. The yield of the phthalimido compound was 114 g. A sample (1 g.) of product was crystallized from acetone (15 ml.); colorless crystals, m.p. 223°-225°; [α]D + 428.02° (MeCN); ir (nujol) 1810, 1785, 1740 and 1710 cm-1 ; nmr (CDCl3) δ 2.38 (s, 3, CH3), 3.0 and 3.75 (ABq, 2, J=14 Hz), 5.13 (d, 1, J=4.5 Hz), 5.71 (d, 1, J=4.5 Hz), and 7.82 (m, 4, ArH).

reactant | 7-amino-3-methyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | N-carbethoxyphthalimide | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | acetone | 1 liter | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 7-Phthalimido-3-methyl-3-cephem-4-carboxylic acid | C1(C=2C(C(N1C1[C@@H]3N(C(=C(CS3)C)C(=O)O)C1=O)=O)=CC=CC2)=O | C16H12N2O5S
